US05753664
3-Methyl-2-[4-[4-(4-picolyloxy)benzoyl]benzyloxy]-4H-pyrido[1,2-a]pyrimidin-4-one hydrochloride
A solution of 2-[4-(4-hydroxybenzoyl)benzyloxy]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (96 mg), 4-picolyl chloride hydrochloride (89 mg) and potassium carbonate (178 mg) in DMF (7 ml) was stirred at room temperature for 13 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (dichloromethane: methanol =20:1) and treated with hydrogen chloride/ethyl acetate to provide the title compound as colorless solid (87 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzyloxy]-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 96 mg | OC1=CC=C(C(=O)C2=CC=C(COC=3N=C4N(C(C3C)=O)C=CC=C4)C=C2)C=C1 | C23H18N2O4
reactant | 4-picolyl chloride hydrochloride | 89 mg | Cl.N1=CC=C(C=C1)CCl
reactant | potassium carbonate | 178 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-2-[4-[4-(4-picolyloxy)benzoyl]benzyloxy]-4H-pyrido[1,2-a]pyrimidin-4-one hydrochloride | 87 mg | Cl.CC1=C(N=C2N(C1=O)C=CC=C2)OCC2=CC=C(C=C2)C(C2=CC=C(C=C2)OCC2=CC=NC=C2)=O | InChI=1S/C29H23N3O4.ClH/c1-20-28(31-26-4-2-3-17-32(26)29(20)34)36-19-21-5-7-23(8-6-21)27(33)24-9-11-25(12-10-24)35-18-22-13-15-30-16-14-22;/h2-17H,18-19H2,1H3;1H
